US07696229B2
NaH (330 mg, 8.25 mmol) was added in several batches, to a solution of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1H-indole (1.4 g, 5.42 mmol) in DMF (25 mL) while cooling to 0-5° C. The resulting solution was stirred at room temperature for 0.5 hours, and then benzenesulfonyl chloride (1.5 g, 8.41 mmol) was added dropwise. The reaction was stirred for an additional 4 hours at room temperature, and then filtered. The filter cake was washed with ethanol (3×50 mL) and dried to afford 1.2 g (55%) of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1-(phenylsulfonyl)-1H-indole as a light yellow solid. 1H NMR (DMSO) δ 8.62 (s, 1H), 8.17-8.27 (3H), 8.10 (d, 2H), 7.74 (1H), 7.61 (2H), 6.32 (s, 1H), 3.84 (s, 2H), 3.38 (2H), 2.83-2.87 (5H).

reactant | NaH | 8.25 mmol, 330 mg | [H-].[Na+]
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1H-indole | 5.42 mmol, 1.4 g | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C14H15N3O2
reactant | benzenesulfonyl chloride | 8.41 mmol, 1.5 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1-(phenylsulfonyl)-1H-indole | 1.2 g, 55% | CN1CCC(=CC1)C1=CN(C2=CC=C(C=C12)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C20H19N3O4S
